US04035375
Preparation of 2-amino-5-nitrodiphenylthiophenoxymethane
To a rapidly stirred solution of 3.5 g. (0.025 mole) of p-nitroaniline and 10.0 g (0.050 mole) of benzylphenylsulfide in 300 ml. of dry acetonitrile and 100 ml of methylene chloride under nitrogen at -40° C. was added dropwise 3.5 g. (0.032 mole, 28% excess) t-butylhypochlorite in 25 ml. of methylene chloride at -78° C. in diffuse light. The reaction mixture was stirred for 4 hours at -40° C., then allowed to warm slowly to -20° C. over 3 hours. Sodium methoxide (7.0 g., 0.13 mole) in 50 ml. of methanol at 25° C. was added quickly. The reaction mixture was stirred for 1 hour as it warmed to room temperature. The solution was concentrated in vacuo, 250 ml. of dry toluene and 30 ml. of triethylamine were added, and the solution was heated under reflux for 36 hours. The solution was concentrated in vacuo, 100 ml. of water was added, and product was extracted with five 100-ml. portions of methylene chloride. The combined organic phases were washed with 50 ml. of 5% aqueous sodium hydroxide, 100 ml. of saturated sodium chloride solution, dried over anhydrous magnesium sulfate, and filtered. Solvent was removed in vacuo leaving an orange oil which was chromotographed on 400 g. of Fisher basic alumina (Act I) using ether as eluant. Recovered was 5.5 g. (65% based on p-nitroaniline) of 2-amino-5-nitrodiphenylthiophenoxymethane as yellow crystals m.p. 103°-105° C.; ir (cm-1) (KBr) 3480, 3380, 3050, 1620, 1570, 1480, 1380, 1150, 1090, 905, 825, 745, 725, 695; NMR (CDCl3) τ: 1.8-3.5 (13H, m), 4.50 (1H, s), 5.2-5.4 (2H, br s); mass spectrum m/e 336(1), 227(100), 180(35).

reactant | p-nitroaniline | 0.025 mole | [N+](=O)([O-])C1=CC=C(N)C=C1 | C6H6N2O2
reactant | benzylphenylsulfide | 0.050 mole, 10.0 g | C(C1=CC=CC=C1)SC1=CC=CC=C1 | C13H12S
reactant | t-butylhypochlorite | 0.032 mole | C(C)(C)(C)OCl | C4H9ClO
reactant | Sodium methoxide | 0.13 mole, 7.0 g | C[O-].[Na+]
reactant | ether | CCOCC | C4H10O
solvent | methanol | CO | CH4O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
solvent | acetonitrile | C(C)#N | C2H3N
product | 2-amino-5-nitrodiphenylthiophenoxymethane | NC1=C(SC(C2=CC=CC=C2)C2=CC=CC=C2)C=C(C=C1)[N+](=O)[O-] | C19H16N2O2S
